US07179823B1
A mixture of methyl 3-[1-[4-(2,5-dimethyl-4-oxazolylmethoxy)benzyl]3-phenyl-1H-pyrazol-4-yl]propionate (254 mg), lithium hydroxide monohydrate (69.9 mg), tetrahydrofuran (6 ml), water (4 ml) and methanol (4 ml) was stirred at room temperature for 2 hours, and 1N hydrochloric acid (1.7 ml) was added to the mixture, which was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), then concentrated to yield 3-[1-[4-(2,5-dimethyl-4-oxazolylmethoxy)benzyl]3-phenyl-1H-pyrazol-4-yl]propionic acid (243 mg, yield: 99%) as an amorphous substance.

reactant | methyl 3-[1-[4-(2,5-dimethyl-4-oxazolylmethoxy)benzyl]3-phenyl-1H-pyrazol-4-yl]propionate | 254 mg | CC=1OC(=C(N1)COC1=CC=C(CN2N=C(C(=C2)CCC(=O)OC)C2=CC=CC=C2)C=C1)C | C26H27N3O4
reactant | lithium hydroxide monohydrate | 69.9 mg | O.[OH-].[Li+]
reactant | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
reactant | hydrochloric acid | 1N, 1.7 ml | Cl | ClH
solvent | methanol | 4 ml | CO | CH4O
solvent | water | 4 ml | O | H2O
product | 3-[1-[4-(2,5-dimethyl-4-oxazolylmethoxy)benzyl]3-phenyl-1H-pyrazol-4-yl]propionic acid | 243 mg, yield: 99% | CC=1OC(=C(N1)COC1=CC=C(CN2N=C(C(=C2)CCC(=O)O)C2=CC=CC=C2)C=C1)C | C25H25N3O4
